US04780480
7-(4-Methylthiobenzoyl)-2,3-dihydrobenzofuran-5-ylacetic acid (1.0 g) was heated at reflux in carbon tetrachloride (100 ml) containing n-bromosuccinimide (0.54 g) and a catalytic quantity of benzoyl peroxide. After approximately 2 hours the reaction mixture was cooled and extracted with dilute aqueous sodium carbonate. The aqueous extract was acidified with hydrochloric acid, extracted with ethyl acetate, dried and evaporated to yield a residue which was crystallized from acetone/hexane to give (7-(4-methylthiobenzoyl)benzofuran-5-ylacetic acid, m.p.--151°-153° C.

reactant | 7-(4-Methylthiobenzoyl)-2,3-dihydrobenzofuran-5-ylacetic acid | 1.0 g | CC1=CC=C(C(=S)C2=CC(=CC=3CCOC32)CC(=O)O)C=C1 | C18H16O3S
reactant | n-bromosuccinimide | 0.54 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-(4-methylthiobenzoyl)benzofuran-5-ylacetic acid | CC1=CC=C(C(=S)C2=CC(=CC=3C=COC32)CC(=O)O)C=C1 | C18H14O3S
